US05436343
Stage A: Cyanoindan-2-ylidene acetic acid, ethyl ester
Prepared from 2-indanone and ethyl cyanoacetate according to a procedure identical to that used in Stage A of Example 15.

reactant | 2-indanone | C1C(CC2=CC=CC=C12)=O | C9H8O
reactant | ethyl cyanoacetate | C(#N)CC(=O)OCC | C5H7NO2
product | Cyanoindan-2-ylidene acetic acid, ethyl ester | C(#N)C(C(=O)OCC)=C1CC2=CC=CC=C2C1 | C14H13NO2
